US06228872B1
(S)-2-(2-Methoxycarbonyl-ethyl)-piperidine-1-carboxylic acid t-butyl ester
To a solution of (S)-2-(2-methoxycarbonylvinyl)-piperidine-1-carboxylic acid t-butyl ester (1.46 g, 5.41 mmol) in 1:1 methanol:methylene chloride (40 mL) was added 10% palladized charcoal (0.129 g). The mixture was hydrogenated (59 psi) for 5.5 h. The catalyst was removed by filtration through a bed of celite and the solution concentrated in vacuo. Purification by silica gel chromatography provided the product (1.10 g, 75%).

reactant | (S)-2-(2-methoxycarbonylvinyl)-piperidine-1-carboxylic acid t-butyl ester | 5.41 mmol, 1.46 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)C=CC(=O)OC | C14H23NO4
reactant | methanol | CO | CH4O
reactant | charcoal | 0.129 g | C | CH4
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(2-Methoxycarbonyl-ethyl)-piperidine-1-carboxylic acid t-butyl ester | 1.10 g, 75% | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCC(=O)OC | C14H25NO4
